US07482340B2
2-[2-(3-(5-Nitropyridin-2-yloxy)phenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1 (b) but starting from 2-(3-hydroxyphenyl)chroman-6-ol and using 210 mol-% of 2-chloro-5-nitropyridine. 1H NMR (400 MHz, d6-DMSO) δ: 9.05 (d, 1H, J 2.9 Hz), 9.03 (d, 1H, J 2.9 Hz), 8.64 (dd, 1H, J 2.9, 9.1 Hz), 8.60 (dd, 1H, J 2.9, 9.1 Hz), 7.52 (t, 1H, J 7.8 Hz), 7.41 (d, 1H, J 7.8 Hz), 7.33-7.31 (m, 1H), 7.28 (d, 1H, J 7.8 Hz), 7.23-7.18 (m, 2H) 7.01-6.90 (m, 3H), 5.20 (dd, 1H, J 2.1, 10.1 Hz), 3.07-2.92 (m, 1H), 2.80-2.70 (m, 1H), 2.30-2.18 (m, 1H), 2.10-1.98 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-hydroxyphenyl)chroman-6-ol | OC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H14O3
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-[2-(3-(5-Nitropyridin-2-yloxy)phenyl)chroman-6-yloxy]-5-nitropyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C25H18N4O7
